US07829572B2
To a stirred solution of methyl 4-amino-2-(trifluoromethyl)nicotinate (1.97 g, 8.97 mmol) in dioxane/methanol/water (3:2:1 ratio by volume) is added lithium hydroxide (0.365 g, 15.2 mmol). The mixture was heated at 85° C. for 8 hours. The reaction mixture was cooled to room temperature and conc. HCl was added dropwise to adjust the pH to 2-3. Saturated NaCl solution was added. The aqueous layer is extracted with ethyl acetate (12×). The organic layer is washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford 1.75 g (95%) of 4-amino-2-(trifluoromethyl)nicotinic acid as a yellow solid. 1H NMR (400 MHz, CD3OD), 8.09 (d, 1H), 6.93 (d, 1H), LC/MS (M+1)=207.1.

reactant | methyl 4-amino-2-(trifluoromethyl)nicotinate | 8.97 mmol, 1.97 g | NC1=CC=NC(=C1C(=O)OC)C(F)(F)F | C8H7F3N2O2
reactant | lithium hydroxide | 15.2 mmol, 0.365 g | [OH-].[Li+]
reactant | HCl | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | dioxane methanol water | O1CCOCC1.CO.O
product | 4-amino-2-(trifluoromethyl)nicotinic acid | 1.75 g, 95% | NC1=CC=NC(=C1C(=O)O)C(F)(F)F | C7H5F3N2O2
